### PR TITLE
[stdlib] Adding three lemmata related with finiteness and decidability of equality

### LINKED ISSUE #16479: Suggestion for minor extension of  coq/theories/Logic/FinFun.v: Listing l -> decidable_eq A
#### Description of the suggestion
I would like to suggest to add one/some  of the following lemmata to  `coq/theories/Logic/FinFun.v`:

```
Lemma Listing_decidable_eq {A:Type} (l:list A): Listing l -> decidable_eq A.

Lemma Finite_alt' {A:Type}: Finite A /\ decidable_eq A <-> Finite' A.

Lemma NoDup_decidable_eq {A:Type}:
  (decidable_eq A /\ exists (l:list A), Full l) <->
  (exists (l:list A), Full l /\ NoDup l).

```
Would a corresponding PR be welcome?

#### Potential benefits
This would
(1) clarify the role of `decidable A` in the relationship between `Finite` and `Finite'`
(2) provide an easy way to derive `decidable A` from `Listing l` and `Finite' A`

#### Coq Version

current

### PR DESCRIPTION
**Pull request by bodoai**
According to suggestion in issue #16479 the following lemmata have been added:

* in coq/theories/Logic/FinFun.v:
  + Lemma Listing_decidable_eq {A:Type} (l:list A): Listing l -> decidable_eq A.
  + Lemma Finite_dec {A:Type}: Finite A /\ decidable_eq A <-> Finite' A.
* in coq/theories/Lists/ListDec.v:
  + Lemma NoDup_list_decidable A (l:list A) : NoDup l -> forall x y:A, In x l -> In y l -> decidable (x=y).

The first two lemmata clarify the role of decidable A in the relationship between Finite and Finite' and  provide an easy way to derive decidable A from Listing l and Finite' A

The third lemma provides the actual core of the proof for Listing_decidable_eq.

- [ ] Added / updated **test-suite**.

Fixes #16479

### CODE REVIEW

File: theories/Lists/ListDec.v [hunk 1]
```diff
@@ -51,6 +51,21 @@ Qed.
 
 End Dec_in_Prop.
 
+Section Dec_in_Prop_NoDup.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:54]: This section does not seem useful.
The statement could naturally go in the `Dec_in_Prop` section.

File: theories/Lists/ListDec.v [hunk 2]
```diff
@@ -51,6 +51,21 @@ Qed.
...
+Lemma NoDup_list_decidable A (l:list A) : NoDup l -> forall x y:A, In x l -> In y l -> decidable (x=y).
+Proof.
+  induction l as [|h t HInd].
```
Comment (olaure01) [inline theories/Lists/ListDec.v:57]: Induction over the `NoDup l` assumption could give a slightly simpler proof.

File: theories/Logic/FinFun.v [hunk 3]
```diff
@@ -49,6 +49,33 @@ Proof.
...
 
+(** Decidability of equality (in Prop) can be derived from
+    Finite' resp Listing. This leads to a stronger version
+    of Finite_alt, i.e. Finite_dec. *)
+
+Lemma Listing_decidable_eq {A:Type} (l:list A): Listing l -> decidable_eq A.
+Proof.
+  intros (Hnodup & Hfull) a a'.
+  unfold Full in Hfull.
+  eapply NoDup_list_decidable; try (apply Hnodup); auto.
```
Comment (olaure01) [inline theories/Logic/FinFun.v:60]:
```suggestion
  now apply (NoDup_list_decidable Hnodup).
```

File: theories/Logic/FinFun.v [hunk 4]
```diff
@@ -49,6 +49,33 @@ Proof.
...
+       the first part of the proof of Finite_alt has been copied.
+       (An alternative would have been to simply apply lemma Finite_alt.) *)
+    intros ((l, Hfull) & Hdec).
+    destruct (uniquify Hdec l) as (l' & H_nodup & H_inc).
+    exists l'. split; trivial.
+    intros a. apply H_inc. apply Hfull.
+  - intros (l & Hlist).
+    apply Listing_decidable_eq in Hlist as Heqdec.
+    destruct Hlist as (Hnodup & Hfull).
+    split; try (exists l); auto.
```
Comment (olaure01) [inline theories/Logic/FinFun.v:76]:
```suggestion
    split; [ exists l | ]; assumption.
```
we know `exists l` is useful only in the first branch.

File: theories/Logic/FinFun.v [hunk 5]
```diff
@@ -49,6 +49,33 @@ Proof.
...
+  eapply NoDup_list_decidable; try (apply Hnodup); auto.
+Qed.
+
+Lemma Finite_dec {A:Type}: Finite A /\ decidable_eq A <-> Finite' A.
+Proof.
+  split.
+  - (* In order to decouple this proof of the lemma Finite_alt,
+       the first part of the proof of Finite_alt has been copied.
+       (An alternative would have been to simply apply lemma Finite_alt.) *)
+    intros ((l, Hfull) & Hdec).
```
Comment (olaure01) [inline theories/Logic/FinFun.v:69]:
```suggestion
  - intros ((l, Hfull) & Hdec).
```
I would rather explicitly prove `Finite_alt` afterwards by relying on this new stronger `Finite_dec`.
One could even think about deprecating `Finite_alt` which only requires to modify the proof of `Endo_Injective_Surjective` to use `Finite_dec` instead of `Finaite_alt`.

**Review by olaure01 — CHANGES_REQUESTED** [review]

File: theories/Lists/ListDec.v (hunk 2 above)
Comment (bodoai) [reply theories/Lists/ListDec.v:57]: The proof can be reduced substantially:
Proof.
  intros ND.
  induction ND; intros; apply dec.
Qed.

Comment (bodoai) [reply theories/Lists/ListDec.v]: Indeed, the this gives a simpler proof.

File: theories/Logic/FinFun.v (hunk 5 above)
Comment (bodoai) [reply theories/Logic/FinFun.v:68]: What is the state-of-the-art way to mark `Finite_alt` as `deprecated`?

1. Simply adding a comment like `(* Deprecated since 8.17.0. Use Finite_dec instead *)`?
2. Introducing a deprecated compatibility alias using Notation?

In case (2)  there seem to exist at least two possibilities:

(2a) Rename `Finite_alt` to something like `Finite_alt_deprecated` and add a `deprecated` attribute plus a Notation alias, e.g.:
```
- Lemma Finite_alt ...
+ Lemma Finite_alt_deprecated ...
...
Qed.

+ (* #[deprecated(since="18.7.0", note="Use Finite_dec instead.")] *)
+ Notation Finite_alt := Finite_alt_deprecated.

```
(2b) Remove `Finite_alt` and hide the lemma inside a proof object which is aliased by the Notation, e.g.:

```
- Lemma Finite_alt ...
- ...
- Qed.
+ (* #[deprecated(since="18.7.0", note="Use Finite_dec instead.")] *)
+ Notation Finite_alt := (fun (A:Type) (d:decidable_eq A) =>
+  (fun (Q P R : Prop) (H : P /\ Q <-> R) (H0 : Q) =>...)
+  (decidable_eq A) (Finite A) (Finite' A) Finite_dec d).
```

Comment (olaure01) [reply theories/Logic/FinFun.v:68]: > (2a) Rename Finite_alt to something like Finite_alt_deprecated and add a deprecated attribute plus a Notation alias, e.g.:
> 
>```
> - Lemma Finite_alt ...
> + Lemma Finite_alt_deprecated ...
> ...
> Qed.
> 
> + (* #[deprecated(since="18.7.0", note="Use Finite_dec instead.")] *)
> + Notation Finite_alt := Finite_alt_deprecated.
> ```
This is what I would recommend.

File: theories/Lists/ListDec.v (hunk 2 above)
Comment (bodoai) [reply theories/Lists/ListDec.v]: It seems that this proof has to rely on the hypothesis `dec:decidable_eq A` (stated at the beginning of `Section Dec_in_Prop` and defined as: `forall x y:A, decidable (x=y)`). The hypothesis `dec` directly implies the desired result (`forall x y:A, In x l -> In y l -> decidable (x=y)`). However, the objective of the lemma is to prove this weakened variant of `dec` relying only on the hypothesis `NoDup l`.

Should this maybe be clarified by a corresponding comment?

File: theories/Lists/ListDec.v [hunk 6]
```diff
@@ -49,6 +49,19 @@ Proof using A dec.
      * right. inversion_clear 1. tauto.
 Qed.
 
+
+Lemma NoDup_list_decidable (l:list A) : NoDup l -> forall x y:A, In x l -> In y l -> decidable (x=y).
+Proof using A.
+  intros ND.
+  induction ND; intros x' y' Hinx Hiny.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:56]:
```suggestion
  induction ND as [|h t Hin Hnd IHND]; intros x' y' Hinx Hiny.
```
This is for compatibility with name mangling.
By the way, the two modified files are not 100% compatible with name mangling. We can take the opportunity to make the corresponding adjustments here, or I will do an other PR afterwards.

File: theories/Lists/ListDec.v [hunk 7]
```diff
@@ -49,6 +49,19 @@ Proof using A dec.
...
+  - simpl in Hinx; destruct Hinx.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:57]:
```suggestion
  - destruct Hinx.
```

File: theories/Lists/ListDec.v [hunk 8]
```diff
@@ -49,6 +49,19 @@ Proof using A dec.
...
+  - destruct Hinx as [Hinx|Hinx]; destruct Hiny as [Hiny|Hiny]; subst.
+    + left; reflexivity.
+    + right; intros Hcontra; subst; congruence.
+    + right; intros Hcontra; subst; congruence.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:61]:
```suggestion
    + right; intros ->; contradiction.
    + right; intros ->; contradiction.
```

**Review by olaure01 — CHANGES_REQUESTED** [review]

File: theories/Lists/ListDec.v (hunk 2 above)
Comment (olaure01) [reply theories/Lists/ListDec.v]: The current proof does the job. You could also use the more compact suggestion of @mrhaandi with appropriate context constraints:
```coq
Proof using A. clear dec; intros Hl; induction Hl; firstorder congruence. Qed.
```

File: theories/Lists/ListDec.v (hunk 6 above)
Comment (bodoai) [reply theories/Lists/ListDec.v]: I took the opportunity and changed the proofs to explicitly name all hypotheses generated by `induction` and `destruct` in `ListDec.v`. If this is what you meant by "corresponding adjustments", I could go ahead and adjust `Finfun.v` accordingly.

Comment (olaure01) [reply theories/Lists/ListDec.v]: That's it, but in fact you need it only when those names are used later in the proof.
You can find what is missing for example by adding `Set Mangle Names.` in the beginning of the file or by compiling with `coqc -mangle-names "_" file.v`.

Comment (bodoai) [reply theories/Lists/ListDec.v]: Thanks for the info. I will proceed accordingly.

Comment (bodoai) [reply theories/Lists/ListDec.v]: Applied the "minimum" adjustments, i.e. provided only the missing identifiers in the cases that were flagged by `Set Mangle Names`. (Consequently, I reverted all the `induction` and `destruct` instances in `ListDec.v` that were not flagged by `Set Mangle Names` to the previous state.)

Comment (bodoai) [reply theories/Lists/ListDec.v]: Just to make sure that I have not forgotten anything: The name mangling cleanup should not be visible to the users of stdlib. Therefore, this kind of change does not have to be documented in the changelog?

Comment (olaure01) [reply theories/Lists/ListDec.v]: > Therefore, this kind of change does not have to be documented in the changelog?

Indeed.

**Review by olaure01 — APPROVED** [review]

**Comment by olaure01** [comment]
@bodoai you can squash your commits and I will merge by Thursday if there is no more comments.

**Comment by olaure01** [comment]
@coqbot: merge now
